US07566784B2
F) tert-Butyl 1-(4-nitrophenyl)-1H-pyrrolo[3,2-]pyridine-6-carboxylate
To a solution of tert-butyl 1H-pyrrolo[3,2-c]pyridine-6-carboxylate (120 mg, 0.55 mmol) in DMF (3 mL) at rt, was added NaH (60% in mineral oil, 26.4 mg, 0.66 mmol). The mixture was stirred for 10 min and 4-fluoronitrobenzene (155 mg, 1.1 mmol) was added to the reaction. The resulting mixture was stirred at rt for 1 h. The reaction was quenched with sat. aq. sodium citrate solution, extracted with EtOAc and dried over MgSO4. The product was purified by flash column chromatography (SiO2, 25% EtOAc/CH2Cl2) to give a yellow solid (137 mg, 73%).

reactant | tert-butyl 1H-pyrrolo[3,2-c]pyridine-6-carboxylate | 0.55 mmol, 120 mg | N1C=CC=2C=NC(=CC21)C(=O)OC(C)(C)C | C12H14N2O2
reactant | NaH | 0.66 mmol, 26.4 mg | [H-].[Na+]
reactant | 4-fluoronitrobenzene | 1.1 mmol, 155 mg | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 1-(4-nitrophenyl)-1H-pyrrolo[3,2-]pyridine-6-carboxylate | 137 mg, 73% | [N+](=O)([O-])C1=CC=C(C=C1)N1C=CC=2C=CC(=NC21)C(=O)OC(C)(C)C | C18H17N3O4
